US05741926
2-((2-Bromoacetyl)amino)-3-chlorobenzoic Acid
A solution of 2-amino-3-chlorobenzoic acid (7.0 g, 0.041 mol) in anhydrous DMF (20 mL) and anhydrous dioxane (20 mL) was cooled to 0° C. in a 250 mL 3-necked flask which was fitted with a magnetic stirring bar and a constant additional funnel. Bromoacetyl bromide was added dropwise over a 27 min period while keeping the internal temperature between 0° C. and 2° C. After the addition was complete, the ice-bath was removed and stirring was continued for 4 h. The reaction mixture was cooled using an ice-bath, water (100 mL) was added, and then the yellow precipitate which formed was filtered. The filtered solid was washed with water and then dried in a vacuum oven for 2 days, yielding 7.7 g (65%) of the title compound as a light yellow crystals: mp 173°-175° C.; 1H NMR (CD3OD) δ7.88 (dd, 1H, J=1.6, J=6), 7.68 (dd, 1H, J=1.2, J=6.8), 7.39 (t, 1H, J=8), 6.6 (bs, 1H, NH), 4.06 (s, 2H); 13C NMR (CD3OD) δ176.57, 168.38, 134.84, 134.40, 131.95, 130.53, 129.15, 129.05, 28.66; MS (EI, m/z) 293 (M+).

reactant | 2-amino-3-chlorobenzoic acid | 0.041 mol, 7.0 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | Bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-((2-Bromoacetyl)amino)-3-chlorobenzoic Acid | 7.7 g, 65% | BrCC(=O)NC1=C(C(=O)O)C=CC=C1Cl | C9H7BrClNO3
